US06784167B2
To a solution of (4R*,5R*)-5-[(1S*)(5-bromo(2-thienyl))hydroxymethyl]-1-methyl-4-phenylpyrrolidin-2-one (200 mg, 0.55 mmol) in DMSO (20 mL) was added Et3N (166 mg, 1.64 mmol, 3 equiv), followed by dppf (23 mg, 0.05 mmol, 0.1 equiv), aniline (508 mg, 5.5 mmol, 10 equiv) and palladium(II) acetate (12 mg, 0.05 mmol, 0.1 equiv). The reaction mixture was heated to 80° C. under a CO atmosphere (1 Atm) overnight. The resulting mixture was treated with water (100 mL) and extracted with CH2Cl2 (100 mL). The organic layer was washed with a 1N HCl solution (100 mL) and a saturated NaCl solution (100 mL), dried (Na2SO4) and concentrated under reduced pressure. The residue was triturated (CH2Cl2) to give (±)-5-[(1S*)(5-(N-phenylcarbamoyl)(2-thienyl))hydroxymethyl](4R*,5R*)-1-methyl-4-phenylpyrrolidin-2-one (41 mg, 18%) as a white solid: mp 223-227° C.; TLC (80% EtOAc/hex) Rf 0.26; HPLC ES-MS m/z (rel abundance) 407 (MH+, 100%).

reactant | (4R*,5R*)-5-[(1S*)(5-bromo(2-thienyl))hydroxymethyl]-1-methyl-4-phenylpyrrolidin-2-one | 0.55 mmol, 200 mg | BrC1=CC=C(S1)[C@H]([C@H]1[C@H](CC(N1C)=O)C1=CC=CC=C1)O | C16H16BrNO2S
reactant | Et3N | 1.64 mmol, 166 mg, 3 equiv | CCN(CC)CC | C6H15N
reactant | aniline | 5.5 mmol, 508 mg, 10 equiv | NC1=CC=CC=C1 | C6H7N
reactant | water | 100 mL | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
catalyst | dppf | 0.05 mmol, 23 mg, 0.1 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | palladium(II) acetate | 0.05 mmol, 12 mg, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (±)-5-[(1S*)(5-(N-phenylcarbamoyl)(2-thienyl))hydroxymethyl](4R*,5R*)-1-methyl-4-phenylpyrrolidin-2-one | 41 mg, 18% | C1(=CC=CC=C1)NC(=O)C1=CC=C(S1)[C@H]([C@H]1[C@H](CC(N1C)=O)C1=CC=CC=C1)O | C23H22N2O3S
